US08193228B2
NMO (214 mg, 1.8 mmol) followed by osmium tetroxide (2.5 wt % in n-butanol) (cat.) were added to a solution of 3-[4-(2,2-dimethylbut-3-en-1-yl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol (600 mg, 0.91 mmol) in acetone/water (2:1) (12 mL). After stirring at ambient temperature overnight, the reaction mixture was quenched with saturated aqueous sodium thiosulfate and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% ethyl acetate/hexane afforded 4-(2-{3,3-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-2-hydroxypropyl}-1-trityl-1H-imidazol-4-yl)-3,3-dimethylbutane-1,2-diol.

reactant | NMO | 1.8 mmol, 214 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 3-[4-(2,2-dimethylbut-3-en-1-yl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | 0.91 mmol, 600 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)F)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(C=C)C | C42H38F3N3O
reactant | acetone water | 12 mL | CC(=O)C.O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 4-(2-{3,3-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-2-hydroxypropyl}-1-trityl-1H-imidazol-4-yl)-3,3-dimethylbutane-1,2-diol | FC(C(CC=1N(C=C(N1)CC(C(CO)O)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C42H40F3N3O3
